reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C-:5]#[O+:6].[C:1]([C:2]([O:3][H:12])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],32.60119144805819
[N:1](=[C:2]=[C:3]([C:4]([C@@:5]1([H:11])[C:6]([H:13])=[N:7]1)([H:9])[H:10])[H:8])[H:12]>>[N:1]#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[C:6]([H:12])([H:13])[N:7]12,47.20069284347038
[C:1]([N:2](/[C:3](=[C:4](\[O:5][H:12])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],53.21285025801919
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:11])[H:10])([H:7])[H:8].[C:4]([O:5][H:9])[N:6]([H:12])[H:13],74.7463468635747
[C:1](=[C:2]=[C:3]1[C:4](=[O:5])[N:6]1[H:11])([H:7])[H:8].[H:9][H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],44.5509947169368
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([O:2][C+:3]([N:4]([H:11])[H:13])[N-:5][H:12])([H:8])([H:9])[H:10],41.4826672931989
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([O+:7]=[C-:6][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],51.1656851050905
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([C:7]([H:13])([H:14])[H:15])[o:6]1)([H:8])([H:9])[H:10],57.1700382386994
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4](=[C:5]([H:14])[H:15])[C:6]1=[C:7])([H:8])([H:9])[H:10],99.0421393980079
[n:1]1([H:6])[c:2]([H:7])[n:3][n:4][c:5]1[H:8]>>[n+:1]1([H:6])[c-:2][n:3]([H:7])[n:4][c:5]1[H:8],65.38108220811911
[C:1]([C:2]([N+:3]1([H:13])[C-:4]=[C:5]([H:14])[N:6]=[C:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],7.857299932580091
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:15])([H:16])[C@@:6]([O:7][H:14])([H:18])[N:5]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],96.5560233812016
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C@:4]12([H:14])[C:5]([H:15])([H:16])[C:6]1=[C:7]2[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],39.15901276491719
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[C:4]([H:13])[H:14])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12].[H:9][H:15]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],41.11188064956111
[C:4](=[C:5]=[N:6][H:8])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],25.511305461251894
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:5][C:4](=[C:3]([H:13])[H:14])[C:6](=[O:7])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],92.7935374208238
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C@:4]([O:5][H:14])([H:13])[C:6][C:7]1([H:8])[H:15],75.315832808737
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([C:5]([H:9])([H:10])[H:11])[O:6]1)\[H:7],100.570951765704
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@@:2]12[O:3][C@@:6]([H:12])([O:5][C:4]1([H:10])[H:11])[N:7]2[H:13])([H:8])[H:9],61.122051811681004
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C-:2]([N+:3](=[C:4]([N:5]([H:11])[H:14])[C:6]#[N:7])[H:13])[H:12])([H:8])([H:9])[H:10],47.7097476365146
[C:1]([C@@:2]1([H:12])[C-:3]([H:11])[C:4](=[C:5]([H:13])[H:14])[C+:6]([H:15])[N:7]1[H:16])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[c:4]([C:5]([H:12])([H:13])[H:14])[c:6]([H:15])[n:7]1[H:16])([H:8])([H:9])[H:10],54.98450365430939
[C:1]([C-:2]=[O+:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8],27.668506629876802
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]([C:2]([O:6][C:5]([C:4]([C:3][H:10])([H:11])[H:12])([H:13])[H:14])([H:8])[H:9])[H:7],113.675035862053
[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7]>>[C-:5]#[O+:6].[O:1]=[C:2]([C:3]([N:4]([H:10])[H:11])([H:8])[H:9])[H:7],84.15074714095108
